US07691882B2
5-(4-Fluoro-phenoxy)-thiophene-2-carbonitrile
To a dimethyl sulfoxide (100 mL) solution of 5-nitro-2-thiophene carbonitrile (5.00 g, 32.4 mmol) were added 4-fluorophenol (5.45 g, 48.6 mmol) and potassium carbonate (11.2 g, 81.0 mmol) under nitrogen atmosphere, which was stirred for 16 hours at 60° C. The reaction solution was cooled to room temperature and water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:10→1:5) to obtain the title compound (6.10 g, 85.9%).

reactant | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
reactant | 5-nitro-2-thiophene carbonitrile | 32.4 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(S1)C#N | C5H2N2O2S
reactant | 4-fluorophenol | 48.6 mmol, 5.45 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 81.0 mmol, 11.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5-(4-Fluoro-phenoxy)-thiophene-2-carbonitrile | 6.10 g, 85.9% | FC1=CC=C(OC2=CC=C(S2)C#N)C=C1 | C11H6FNOS
